US08278482B2
Benzyl 2-methyl-1-(methylthio)propan-2-ylcarbamate
To a pressure tube was added a solution of benzyl 1-mercapto-2-methylpropan-2-ylcarbamate in methanol (5 mL), TEA (2.35 mL, 1 equiv) and methyl iodide (1.05 mL, 1 equiv). The tube was sealed and the reaction stirred for 17 h. The solvent was removed in vacuo and the crude material was purified on an ISCO purification system. The desired fractions were pooled and concentrated under reduced pressure to give a pale yellow oil (2.78 g, 65%). 1H NMR (CDCl3, 400 MHz): δ 1.41 (s, 6H), 2.51 (s, 2H), 2.98 (s, 2 H). LRMS (ESI+) for C13H19NO2S (253.1); Found: 254 (MH+).

reactant | benzyl 1-mercapto-2-methylpropan-2-ylcarbamate | SCC(C)(C)NC(OCC1=CC=CC=C1)=O | C12H17NO2S
reactant | methyl iodide | 1.05 mL, 1 equiv | CI | CH3I
solvent | methanol | 5 mL | CO | CH4O
product | Benzyl 2-methyl-1-(methylthio)propan-2-ylcarbamate | 2.78 g, 65% | CC(CSC)(C)NC(OCC1=CC=CC=C1)=O | C13H19NO2S
